US05304557
A. 2'-Bromo-5'-trifluoromethyl-2-chloroacetanilide
To a solution of 2-bromo-5-trifluoromethylaniline (10.0 g) in methylene chloride (100 ml) was added triethylamine and the solution was cooled to 0° C. To this solution was slowly added choroacetyl chloride and the reaction mixture was allowed to cool to room temperature overnight. The solution was concentrated and the resulting solid was extracted with ethyl acetate. The organic extract was first washed with 10% HCl (2×2 ml), then with water (12×25 ml) and was collected, dried and evaporated to obtain the title compound (yield, 10.2 g). 1HNMR (250 MHz, CDCl3): 4.22 (s, 2 H), 7.26 (d, J=8 Hz, 1 H), 7.66 (d, J=8 Hz, 1 Hz), 8.68 (s, 1 H), 9.02 (br s, 1 H).

reactant | 2-bromo-5-trifluoromethylaniline | 10.0 g | BrC1=C(N)C=C(C=C1)C(F)(F)F | C7H5BrF3N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | choroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2'-Bromo-5'-trifluoromethyl-2-chloroacetanilide | 10.2 g | BrC1=C(NC(CCl)=O)C=C(C=C1)C(F)(F)F | C9H6BrClF3NO
